US05811439
The same procedures used in Example 1 were repeated except for using 435 mg of indole-3-carbaldehyde and 4-benzyloxybenzyl methanesulfonate in place of the benzyl bromide used in Example 1 to give 626 mg of 1-(4-benzyloxybenzyl)indole-3-carbaldehyde as colorless crystals. The yield thereof was found to be 61%.

reactant | indole-3-carbaldehyde | 435 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 4-benzyloxybenzyl methanesulfonate | CS(=O)(=O)OCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H16O4S
product | 1-(4-benzyloxybenzyl)indole-3-carbaldehyde | 626 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C3=CC=CC=C23)C=O)C=C1 | C23H19NO2
